
.lib "skywater-pdk-libs-sky130_fd_pr-main/models/sky130.lib.spice" tt
* Sheet Name: /

		
* Sheet Name: /C1A1B1/
xM9  Net-_M14-Pad2_ B1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM7  Net-_M14-Pad2_ B1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM2  Net-_M1-Pad1_ A1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM1  Net-_M1-Pad1_ A1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM13  Net-_M13-Pad1_ A1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM14  P1 Net-_M14-Pad2_ Net-_M13-Pad1_ Net-_M13-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15	
xM17  Net-_M17-Pad1_ B1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM18  P1 Net-_M1-Pad1_ Net-_M17-Pad1_ Net-_M17-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM11  P1 B1 Net-_M11-Pad3_ Net-_M11-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM15  P1 Net-_M14-Pad2_ Net-_M15-Pad3_ Net-_M15-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM16  Net-_M15-Pad3_ Net-_M1-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM12  Net-_M11-Pad3_ A1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM4  Net-_M10-Pad2_ B1 Net-_M4-Pad3_ Net-_M4-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM5  Net-_M4-Pad3_ A1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM8  G1 Net-_M10-Pad2_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM3  Net-_M10-Pad2_ A1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM6  Net-_M10-Pad2_ B1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM10  G1 Net-_M10-Pad2_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
* Sheet Name: /C2A2B2/
xM27  Net-_M25-Pad1_ B2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM25  Net-_M25-Pad1_ B2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM20  Net-_M19-Pad1_ A2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM19  Net-_M19-Pad1_ A2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM31  Net-_M31-Pad1_ A2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM32  P2 Net-_M25-Pad1_ Net-_M31-Pad1_ Net-_M31-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM35  Net-_M35-Pad1_ B2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM36  P2 Net-_M19-Pad1_ Net-_M35-Pad1_ Net-_M35-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM29  P2 B2 Net-_M29-Pad3_ Net-_M29-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM33  P2 Net-_M25-Pad1_ Net-_M33-Pad3_ Net-_M33-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM34  Net-_M33-Pad3_ Net-_M19-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM30  Net-_M29-Pad3_ A2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM22  Net-_M21-Pad1_ B2 Net-_M22-Pad3_ Net-_M22-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM23  Net-_M22-Pad3_ A2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM26  G2 Net-_M21-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM21  Net-_M21-Pad1_ A2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM24  Net-_M21-Pad1_ B2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM28  G2 Net-_M21-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
* Sheet Name: /C3A3B3/
xM45  Net-_M43-Pad1_ B3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM43  Net-_M43-Pad1_ B3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM38  Net-_M37-Pad1_ A3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM37  Net-_M37-Pad1_ A3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM49  Net-_M49-Pad1_ A3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM50  P3 Net-_M43-Pad1_ Net-_M49-Pad1_ Net-_M49-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM53  Net-_M53-Pad1_ B3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM54  P3 Net-_M37-Pad1_ Net-_M53-Pad1_ Net-_M53-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM47  P3 B3 Net-_M47-Pad3_ Net-_M47-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM51  P3 Net-_M43-Pad1_ Net-_M51-Pad3_ Net-_M51-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM52  Net-_M51-Pad3_ Net-_M37-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM48  Net-_M47-Pad3_ A3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM40  Net-_M39-Pad1_ B3 Net-_M40-Pad3_ Net-_M40-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM41  Net-_M40-Pad3_ A3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM44  G3 Net-_M39-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM39  Net-_M39-Pad1_ A3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM42  Net-_M39-Pad1_ B3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM46  G3 Net-_M39-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
* Sheet Name: /C0A0B0/
xM63  Net-_M61-Pad1_ B0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM61  Net-_M61-Pad1_ B0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM56  Net-_M55-Pad1_ A0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM55  Net-_M55-Pad1_ A0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM67  Net-_M67-Pad1_ A0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM68  P0 Net-_M61-Pad1_ Net-_M67-Pad1_ Net-_M67-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM71  Net-_M71-Pad1_ B0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM72  P0 Net-_M55-Pad1_ Net-_M71-Pad1_ Net-_M71-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM65  P0 B0 Net-_M65-Pad3_ Net-_M65-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM69  P0 Net-_M61-Pad1_ Net-_M69-Pad3_ Net-_M69-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM70  Net-_M69-Pad3_ Net-_M55-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM66  Net-_M65-Pad3_ A0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM58  Net-_M57-Pad1_ B0 Net-_M58-Pad3_ Net-_M58-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM59  Net-_M58-Pad3_ A0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM62  G0 Net-_M57-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM57  Net-_M57-Pad1_ A0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM60  Net-_M57-Pad1_ B0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM64  G0 Net-_M57-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
* Sheet Name: /C1_evalua/
xM74  Net-_M73-Pad3_ C0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM76  Net-_M73-Pad1_ G0 Net-_M75-Pad1_ Net-_M75-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM73  Net-_M73-Pad1_ P0 Net-_M73-Pad3_ Net-_M73-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM79  C1 Net-_M73-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM77  Net-_M73-Pad1_ G0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM75  Net-_M75-Pad1_ C0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM78  Net-_M73-Pad1_ P0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM80  C1 Net-_M73-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
* Sheet Name: /C2_evalua/
xM84  Net-_M84-Pad1_ C0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM85  Net-_M85-Pad1_ G0 Net-_M84-Pad1_ Net-_M84-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM86  Net-_M81-Pad1_ G1 Net-_M85-Pad1_ Net-_M85-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM87  Net-_M85-Pad1_ P0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM89  Net-_M81-Pad1_ P1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM92  C2 Net-_M81-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM81  Net-_M81-Pad1_ P1 Net-_M81-Pad3_ Net-_M81-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM82  Net-_M81-Pad3_ P0 Net-_M82-Pad3_ Net-_M82-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM83  Net-_M82-Pad3_ C0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM88  Net-_M81-Pad3_ G0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM90  Net-_M81-Pad1_ G1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM91  C2 Net-_M81-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
* Sheet Name: /C3_evalua/
xM96  Net-_M95-Pad3_ C0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM95  Net-_M102-Pad1_ P0 Net-_M95-Pad3_ Net-_M95-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM94  Net-_M104-Pad1_ P1 Net-_M102-Pad1_ Net-_M102-Pad1_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM93  Net-_M100-Pad1_ P2 Net-_M104-Pad1_ Net-_M104-Pad1_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM102  Net-_M102-Pad1_ G0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM104  Net-_M104-Pad1_ G1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM106  Net-_M100-Pad1_ G2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM107  C3 Net-_M100-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM100  Net-_M100-Pad1_ G2 Net-_M100-Pad3_ Net-_M100-Pad3_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM99  Net-_M100-Pad3_ G1 Net-_M101-Pad1_ Net-_M101-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM98  Net-_M101-Pad1_ G0 Net-_M97-Pad1_ Net-_M97-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM97  Net-_M97-Pad1_ C0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM101  Net-_M101-Pad1_ P0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM103  Net-_M100-Pad3_ P1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM105  Net-_M100-Pad1_ P2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM108  C3 Net-_M100-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
* Sheet Name: /C4_evalua/
xM110  Net-_M109-Pad3_ P2 Net-_M110-Pad3_ Net-_M110-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM118  Net-_M109-Pad1_ G3 Net-_M117-Pad1_ Net-_M117-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM117  Net-_M117-Pad1_ G2 Net-_M116-Pad1_ Net-_M116-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM116  Net-_M116-Pad1_ G1 Net-_M115-Pad1_ Net-_M115-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM115  Net-_M115-Pad1_ G0 Net-_M114-Pad1_ Net-_M114-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM114  Net-_M114-Pad1_ C0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM119  Net-_M115-Pad1_ P0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM121  Net-_M116-Pad1_ P1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM123  Net-_M117-Pad1_ P2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM126  Net-_M109-Pad1_ P3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM128  C4 Net-_M109-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM109  Net-_M109-Pad1_ P3 Net-_M109-Pad3_ Net-_M109-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM111  Net-_M110-Pad3_ P1 Net-_M111-Pad3_ Net-_M111-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM112  Net-_M111-Pad3_ P0 Net-_M112-Pad3_ Net-_M112-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM113  Net-_M112-Pad3_ C0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM120  Net-_M111-Pad3_ G0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM122  Net-_M110-Pad3_ G1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM124  Net-_M109-Pad3_ G2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM125  Net-_M109-Pad1_ G3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM127  C4 Net-_M109-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
* Sheet Name: /S1/
xM132  Net-_M131-Pad1_ C1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM131  Net-_M131-Pad1_ C1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM130  Net-_M129-Pad1_ P1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM129  Net-_M129-Pad1_ P1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM135  Net-_M135-Pad1_ P1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM136  S1 Net-_M131-Pad1_ Net-_M135-Pad1_ Net-_M135-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM139  Net-_M139-Pad1_ C1 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM140  S1 Net-_M129-Pad1_ Net-_M139-Pad1_ Net-_M139-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM133  S1 C1 Net-_M133-Pad3_ Net-_M133-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM137  S1 Net-_M131-Pad1_ Net-_M137-Pad3_ Net-_M137-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM138  Net-_M137-Pad3_ Net-_M129-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM134  Net-_M133-Pad3_ P1 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
* Sheet Name: /S2/
xM144  Net-_M143-Pad1_ C2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM143  Net-_M143-Pad1_ C2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM142  Net-_M141-Pad1_ P2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM141  Net-_M141-Pad1_ P2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM147  Net-_M147-Pad1_ P2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM148  S2 Net-_M143-Pad1_ Net-_M147-Pad1_ Net-_M147-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM151  Net-_M151-Pad1_ C2 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM152  S2 Net-_M141-Pad1_ Net-_M151-Pad1_ Net-_M151-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM145  S2 C2 Net-_M145-Pad3_ Net-_M145-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM149  S2 Net-_M143-Pad1_ Net-_M149-Pad3_ Net-_M149-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM150  Net-_M149-Pad3_ Net-_M141-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM146  Net-_M145-Pad3_ P2 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
* Sheet Name: /xxs3xx/
xM156  Net-_M155-Pad1_ C3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM155  Net-_M155-Pad1_ C3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM154  Net-_M153-Pad1_ P3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM153  Net-_M153-Pad1_ P3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM159  Net-_M159-Pad1_ P3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM160  S3 Net-_M155-Pad1_ Net-_M159-Pad1_ Net-_M159-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM163  Net-_M163-Pad1_ C3 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM164  S3 Net-_M153-Pad1_ Net-_M163-Pad1_ Net-_M163-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM157  S3 C3 Net-_M157-Pad3_ Net-_M157-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM161  S3 Net-_M155-Pad1_ Net-_M161-Pad3_ Net-_M161-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM162  Net-_M161-Pad3_ Net-_M153-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM158  Net-_M157-Pad3_ P3 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
* Sheet Name: /xs0x/
xM168  Net-_M167-Pad1_ C0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM167  Net-_M167-Pad1_ C0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM166  Net-_M165-Pad1_ P0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM165  Net-_M165-Pad1_ P0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM171  Net-_M171-Pad1_ P0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM172  S0 Net-_M167-Pad1_ Net-_M171-Pad1_ Net-_M171-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM175  Net-_M175-Pad1_ C0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM176  S0 Net-_M165-Pad1_ Net-_M175-Pad1_ Net-_M175-Pad1_ sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM169  S0 C0 Net-_M169-Pad3_ Net-_M169-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM173  S0 Net-_M167-Pad1_ Net-_M173-Pad3_ Net-_M173-Pad3_ sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM174  Net-_M173-Pad3_ Net-_M165-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM170  Net-_M169-Pad3_ P0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15
***
* Sheet Name: /Sheet60DAF4C5/
xM180  S Net-_M177-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM179  S Net-_M177-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM178  Net-_M177-Pad1_ S0 vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM177  Net-_M177-Pad1_ S0 GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
* Sheet Name: /Sheet60DAF4C5/
xM184  S0_0 Net-_M181-Pad1_ vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM183  S0_0 Net-_M181-Pad1_ GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15		
xM182  Net-_M181-Pad1_ S vdd vdd sky130_fd_pr__pfet_01v8 w=.55 l=.15		
xM181  Net-_M181-Pad1_ S GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.15	
	
***************************************************************************************
*U1  /vdd /C0 /A0 /A1 /A2 /A3 /B0 /B1 /B2 /B3 /S0 /S1 /S2 /S3 /C4 PORT
vdd vdd 0 1.95
vc0 C0 0 pulse(0 1.88 0ps 1ps 1ps 2.5us 5us)
va0 A0 0 pulse(0 1.88 0ps 1ps 1ps 5us 10us)
va1 A1 0 pulse(0 1.88 0ps 1ps 1ps 10us 20us)
va2 A2 0 pulse(0 1.88 0ps 1ps 1ps 20us 40us)
va3 A3 0 pulse(0 1.88 0ps 1ps 1ps 40us 80us)
vb0 B0 0 pulse(0 1.88 0ps 1ps 1ps 80us 160us)
vb1 B1 0 pulse(0 1.88 0ps 1ps 1ps 160us 320us)
vb2 B2 0 pulse(0 1.88 0ps 1ps 1ps 320us 640us)
vb3 B3 0 pulse(0 1.88 0ps 1ps 1ps 640us 1280us)

.tran .5us 100us

* Control Statements 
.control
run
*print allv > plot_data_v.txt
*print alli > plot_data_i.txt
plot v(C0)-8 v(A0)-6 v(A1)-4 v(A2)-2 v(A3) v(B0)+2 v(B1)+4 v(B2)+6 v(B3)+8
*plot v(B0)-4 v(B1)-2 v(B2) v(B3)+2
plot v(S0_0)-4 v(S1)-2 v(S2) v(S3)+2 v(C4)+4
*plot v(C4)
.endc
.end
